US07514451B2
Process A: (3S,4R)-3-Bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine (1.97 g) was dissolved in dichloromethane (50 mL). While this solution was chilled in an ice water bath, diethylaminosulfur trifluoride (1.90 mL) was added dropwise and the mixture was stirred at room temperature for 19 hours. Subsequently, while the reaction mixture was chilled in an ice water bath, a saturated aqueous solution of sodium bicarbonate (40 mL) was added and the dichloromethane layer was separated. The dichloromethane layer was then washed sequentially with a saturated aqueous solution of sodium bicarbonate (20 mL) and saturated brine (20 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: hexane: ethyl acetate=2:1) to give (3S,4S)-3-bromomethyl-1-tert-butoxycarbonyl-4-fluoropyrrolidine as a yellow-brown tar (1.64 g).

reactant | (3S,4R)-3-Bromomethyl-1-tert-butoxycarbonyl-4-hydroxypyrrolidine | 1.97 g | BrC[C@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C10H18BrNO3
reactant | diethylaminosulfur trifluoride | 1.90 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3S,4S)-3-bromomethyl-1-tert-butoxycarbonyl-4-fluoropyrrolidine | BrC[C@H]1CN(C[C@H]1F)C(=O)OC(C)(C)C | C10H17BrFNO2
